US07795262B2
Step 3. Preparation of 2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-6-(cyclopentyloxy)-1,2,3,4-tetrahydroisoquinoline
To a stirred solution of 2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-1,2,3,4-tetrahydroisoquinolin-6-ol (145 mg, 0.44 mmol) in DMF (10.0 ml) is added 1-bromo-cyclopentane (72 mg, 0.48 mmol), and K2CO3 (60 mg, 0.44 mmol). The resulting mixture is stirred at 50° C. overnight. Water (10.0 ml) is added to quench the reaction, and the mixture is extracted with DCM (10 ml×3). The combined organic phase is dried over sodium sulfate, and the solvent is removed under reduced pressure to give a residue that is purified by PTLC (EtOAc/4% TEA) to give the title compound. 1H NMR (300 MHz, CDCl3) δ 6.84-6.94 (1H, m), 6.60-6.70 (2H, m), 4.68-4.74 (1H, m), 3.60-3.74 (6H, m), 3.36 (2H, s), 2.62-2.86 (5H, m), 2.22-2.34 (4H, m), 1.56˜2.10 (14H, m); MS (+VE) m/z 398.3 (M++1).

reactant | 2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-1,2,3,4-tetrahydroisoquinolin-6-ol | 0.44 mmol, 145 mg | C1(CCC1)N1CCN(CC1)C(CN1CC2=CC=C(C=C2CC1)O)=O | C19H27N3O2
reactant | 1-bromo-cyclopentane | 0.48 mmol, 72 mg | BrC1CCCC1 | C5H9Br
reactant | K2CO3 | 0.44 mmol, 60 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | 10.0 ml | O | H2O
solvent | DMF | 10.0 ml | CN(C)C=O | C3H7NO
product | 2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-6-(cyclopentyloxy)-1,2,3,4-tetrahydroisoquinoline | C1(CCC1)N1CCN(CC1)C(CN1CC2=CC=C(C=C2CC1)OC1CCCC1)=O | C24H35N3O2
